US05336670
alpha-ethynyl 2-(trifluoromethyl) 4-thiazolyl methanol
11 cm3 of a molar solution of ethynyl magnesium bromide is added to a solution of tetrahydrofuran containing 2 g of 2-(trifluoromethyl) 4-thiazolecarboxaldehyde. The reaction mixture is kept under agitation for 30 minutes at 20°/25° C. then it is poured into an ammonium chloride solution. Extraction is carried out with methylene chloride, the extracts are dried, filtered and brought to dryness. 2.1 g of desired product is obtained.

reactant | ethynyl magnesium bromide | C(#C)[Mg]Br
reactant | 2-(trifluoromethyl) 4-thiazolecarboxaldehyde | FC(C=1SC=C(N1)C=O)(F)F | C5H2F3NOS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 g | O1CCCC1 | C4H8O
product | alpha-ethynyl 2-(trifluoromethyl) 4-thiazolyl methanol | 2.1 g | C(#C)C(O)C=1N=C(SC1)C(F)(F)F | C7H4F3NOS
